US07432258B2
1,2-dichloro-4-fluoro-5-nitrobenzene (50 g, 0.238 mol), ethyl glycolate (90.1 mL, 0.952 mol), and potassium fluoride (76.1 g, 1.31 mol) were added to a 1L round-bottom flask containing 200 mL of anhydrous dioxane. The mixture was magnetically stirred and heated to 100° C. in an oil bath. After two hours, HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that all of the starting material (Rt=7.5 min) was gone and that one major peak (Rt=7.8 min) had formed. The reaction mixture was poured into 4 L of water, which resulted in precipitation of the product. The solid was filtered off and dried under vacuum to give ethyl [(4,5-dichloro-2-nitrophenyl)oxy]acetate (67.4 g, 0.229 mol, 96%) as a tan solid. MS (ES) m/e 294 [M+H]+.

reactant | 1,2-dichloro-4-fluoro-5-nitrobenzene | 0.238 mol, 50 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl | C6H2Cl2FNO2
reactant | ethyl glycolate | 0.952 mol, 90.1 mL | C(CO)(=O)OCC | C4H8O3
reactant | potassium fluoride | 1.31 mol, 76.1 g | [F-].[K+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 4 L | O | H2O
solvent | CH3CN H2O | CC#N.O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | ethyl [(4,5-dichloro-2-nitrophenyl)oxy]acetate | 0.229 mol, 67.4 g, 96% | ClC1=CC(=C(C=C1Cl)OCC(=O)OCC)[N+](=O)[O-] | C10H9Cl2NO5
